US08729263B2
3-Fluoro-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenyl trifluoromethanesulfonate (0.48 g, 1.01 mmol), PhI(OAc)2 (0.46 g, 1.41 mmol), and Pd(OAc)2(68 mg, 0.10 mmol) were dissolved in a mixture of acetic acid (4 mL) and acetic anhydride (4 mL). The mixture was stirred at 80° C. for 3 h. The crude reaction was purified by catch and release using SiliaBond Propylsulfonic Acid® (5 eq, CH3CN as eluent and a 2 N ammonia solution in MeOH to release the material). The solvent was concentrated in vacuo and 3-fluoro-5-hydroxy-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenyl trifluoromethanesulfonate was afforded as a green solid (0.50 g, 100%). [M+H]: 494.3; 1H NMR (400 MHz, MeOD) δ 8.09 (t, J=8.5 Hz, 1H), 7.99 (dd, J=9.5, 2.5 Hz, 1H), 7.50 (dd, J=10.5, 2.5 Hz, 1H), 7.45 (dd, J=8.5, 2.5 Hz, 1H), 7.24 (d, J=9.5 Hz, 1H), 5.82 (tt, J=11.0, 4.0 Hz, 1H), 2.24 (dd, J=12.5, 4.0 Hz, 2H), 1.43 (t, J=12.0 Hz, 2H), 1.36 (s, 6H), 1.25 (s, 6H).

reactant | 3-Fluoro-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenyl trifluoromethanesulfonate | 1.01 mmol, 0.48 g | FC(S(=O)(=O)OC1=CC(=C(C=C1)C=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C)F)(F)F | C20H23F4N3O4S
reactant | PhI(OAc)2 | 1.41 mmol, 0.46 g | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 4 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | Pd(OAc)2 | 0.10 mmol, 68 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-fluoro-5-hydroxy-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=C(C(=C1)O)C=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C)F)(F)F | C20H23F4N3O5S
